Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is an ___ with PMH of post-operative AF, CAD s/p 
CABG who presents with chest pain. Patient reports 1 day of left 
sided chest pain. He noted the pain while walking today, but it 
is not reliably associated with activity. He describes the pain 
as pleuritic, noted with deep inspiration and also worse with 
movement. The pain is located on his left anterior chest around 
the nipple. He denies associated dyspnea, nausea, vomiting, 
diarphoresis. He called his PCP, ___ was referred to 
the ED for further evaluation.  

 
Past Medical History:
1. CAD s/p CABG in ___ (left internal mammary artery to left 
anterior descending and saphenous vein graft to posterior 
descending artery)  
2. Hyperlipidemia  
3. History of postoperative atrial fibrillation.  
4. History of chronic obstructive pulmonary disease.  
5. History of cellulitis of the saphenous vein harvest site  
in ___.  
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death. 
 
Physical Exam:
Admission PE:
VS: 98.3 152/89 97 17 94 Ra  
 GENERAL: NAD  
 HEENT: MMM  
 NECK: no JVD  
 HEART: RRR, nl S1 S2, no murmurs, reproducible tenderness to 
palpation around L chest  
 LUNGS: CTAB, no wheezes, rales, rhonchi  
 ABDOMEN: soft, NT, ND, NABS  
 EXTREMITIES: WWP, no edema  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose  
 SKIN: no rashes  
Discharge PE:
VS:97.8, 118-152/74-89, P 78-97, RR 16, 93-96%RA
Weight: 176.15 lbs
Tele: SR/ST 80-105
EKG: NSR with PVC, normal axis and intervals, q waves II, III, 
AVF 
 GENERAL: NAD  
 HEENT: MMM  
 NECK: no JVD  
 HEART: RRR, nl S1 S2, no murmurs, reproducible tenderness to 
palpation around L chest  
 LUNGS: CTAB, no wheezes, rales, rhonchi  
 ABDOMEN: soft, NT, ND, NABS  
 EXTREMITIES: WWP, no edema  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose  
 SKIN: no rashes  

 
Pertinent Results:
___ 08:10AM BLOOD WBC-6.0 RBC-4.93 Hgb-15.1 Hct-46.2 MCV-94 
MCH-30.6 MCHC-32.7 RDW-14.1 RDWSD-48.1* Plt ___
___ 04:58PM BLOOD WBC-6.1 RBC-4.80 Hgb-14.6 Hct-45.6 MCV-95 
MCH-30.4 MCHC-32.0 RDW-14.3 RDWSD-49.7* Plt ___
___ 04:58PM BLOOD Neuts-67.6 Lymphs-18.7* Monos-9.7 Eos-2.5 
Baso-0.5 Im ___ AbsNeut-4.14 AbsLymp-1.14* AbsMono-0.59 
AbsEos-0.15 AbsBaso-0.03
___ 08:10AM BLOOD ___ PTT-31.4 ___
___ 08:10AM BLOOD Glucose-104* UreaN-21* Creat-0.9 Na-141 
K-4.6 Cl-104 HCO3-26 AnGap-11
___ 04:58PM BLOOD Glucose-142* UreaN-29* Creat-0.9 Na-142 
K-4.4 Cl-105 HCO3-24 AnGap-13
___ 08:10AM BLOOD CK-MB-2 cTropnT-<0.01
___ 10:59PM BLOOD cTropnT-<0.01
___ 04:58PM BLOOD cTropnT-<0.01
___ 08:10AM BLOOD Calcium-9.6 Phos-3.5 Mg-2.1
___ 04:58PM BLOOD Calcium-9.9 Phos-3.9 Mg-2.2

CTA chest: ___
EXAMINATION:  CTA CHEST WITH CONTRAST 
  
INDICATION:  History: ___ with sob, pleuritic CP, elevated 
d-dimer// ? pe 
  
COMPARISON:  Chest radiographs from earlier the same day 
  
FINDINGS:  
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the 
subsegmental level without filling defect to indicate a 
pulmonary embolus. No dissection of the thoracic aorta is seen.  
There is coronary artery 
calcification.  No pericardial effusion is seen. 
  
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar 
lymphadenopathy is present.  No mediastinal mass. 
  
PLEURAL SPACES: No pleural effusion or pneumothorax. 
  
LUNGS/AIRWAYS: There is moderate centrilobular emphysema, worse 
in the upper lobes.  There are multiple calcified granulomas in 
the right lung.  Lungs are otherwise clear without masses or 
areas of parenchymal opacification.  The airways are patent to 
the level of the segmental bronchi bilaterally. 
  
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality. 
  
ABDOMEN: Hiatal hernia is large.  There are scattered 
millimetric 
hypodensities in the liver which are too small to characterize 
but may 
represent cysts or hamartomas.  1.4 cm hypodensity in the left 
hepatic lobe may represent a hemangioma.  2 cm hypodensity in 
the spleen may represent a cyst.  Included portion of the upper 
abdomen is otherwise unremarkable. 
  
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture. 
DISH is again seen along the spine.  Sternal wires are again 
seen.  The 
inferior-most sternal wire is fractured. 
  
IMPRESSION: 
1. No evidence of pulmonary embolism or acute aortic 
abnormality. 
2. Moderate centrilobular emphysema. 

Chest xray: ___
IMPRESSION:  
No acute cardiopulmonary process. 

 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ with PMH of post-operative AF, CAD s/p 
CABG who presents with chest pain.  
 # Atypical chest pain/CAD: Patient with intermittent chest pain 
on left anterior chest, reproducible with palpation to site and 
gets worse with inspiration and when he twists from side to 
side. Denies nausea, vomiting, diaphoresis or dyspnea. Evaluated 
with CTA in the ED, which showed no PE nor acute aortic 
abnormality. ECG without ischemic changes, troponin negative x2. 
Suspect musculoskeletal in etiology, currently without pain.  
 - continue all home medications including ASA, atorvastatin and 
metoprolol succinate
 - ___ with Dr. ___ in 2 weeks

 # ELEVATED D DIMER: Elevated to 2500s in the ED, without 
evidence of acute infarction or PE. Other possible causes 
including CVA, DIC, liver disease, renal disease, AF, not 
supported by history or lab testing.  
 
 # BPH: 
-continue tamsulosin and finasteride   
 
 # INCIDENTAL FINDINGS:  
 Noted on CTA chest to have 1.4cm L hepatic lobe hemangioma, 2cm 
hypodensity in spleen likely cyst. Unclear if further follow-up 
needed. Will fax discharge summary to PCP and Dr. ___

___ Note: Mr ___ admitted for chest pain and 
observation in the context of prior history of CAD/s/p bypass 
surgery. He has done exceptionally well ever since, active in 
physically demanding work in the interim. W/U including CT scan 
for r/o PE (elevated D-Dimer and with no other ostensible cause) 
showed no evidence of pulmonary thromboemboli. ECG remained 
unchanged and no evidence of myocardial infarction and chest 
pain symptoms atypical. Subsequently determined that his symptom 
of chest pain was atypical and quite likely musculoskeletal and 
he was able to evoke a pain response himself, Discharged to my 
followup for stability and resolution of chest pain.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Finasteride 5 mg PO QHS 
3. Metoprolol Succinate XL 75 mg PO QAM 
4. Tamsulosin 0.4 mg PO QHS 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Finasteride 5 mg PO QHS  
5.  Metoprolol Succinate XL 75 mg PO QAM  
6.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
atypical chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ 
because you had chest pain. Your EKG was unchanged and your 
blood work did not show any heart attack. We did a CT scan of 
your lungs to rule out a blood clot there. 

Incidental finding during the scan showed a hemangioma (or 
noncancerous growths that form due to an abnormal collection of 
blood vessels) in one of the liver lobes. It also showed a 
possible cyst on your spleen. These findings should be reviewed 
by your primary care doctor and he will decide if further 
imaging is warranted.

Continue all your current medications.

Please call Dr. ___ office to make a close follow up with 
him to be seen in the next 2 weeks. 

If you have any urgent questions that are related to your 
recovery from your medical issues or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.

It was a pleasure to take care of you. We wish you the best with 
your health!

Your ___ Cardiac Care Team

 
Followup Instructions:
___